Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
jaundice
 
Major Surgical or Invasive Procedure:
Endoscopy with endoscopic ultrasound and biopsy on ___
 
History of Present Illness:
___ with DM2, ESRD on HD, CAD, CHF, who presented to ___ 
___ with 4 months of worsening abdominal pain, weight loss, 
and jaundice, and found to have multiple hepatic lesions on CT 
concerning for malignancy. He underwent ERCP on ___ with stent 
placement despite no notable stricture or obstruction. However 
bili continued to rise. Repeat CT a/p showed possible posterior 
duodenal wall thickening. Thus the patient was transferred to 
___ for EUS with biopsy of duodenal thickening. Also, patient 
underwent ___ guided liver biopsy on ___ with path results 
pending on admission to ___.

En route to ___ from ___, the patient experienced 2 
minutes of fleeting substernal chest pain. It was associated 
with diffuse abdominal pain as well and improved spontaneously. 
He was taken to ___ nonetheless, where EKG was c/w 
prior and troponins were 0.05 (in the setting of ESRD). He was 
rerouted to ___ through the emergency department, where CP was 
noted to be resolved, EKG was again stable, and troponins were 
lower at 0.03 with an MB of 2. He was then admitted to the 
medicine service.

On arrival, he endorsed nausea and continued abdominal pain, 
although he is hungry. He reported that prior to transfer he was 
tolerating clears. He endorseed watery diarrhea, although OSH 
documentation documents resolution by the end of his hospital 
course.
 
Past Medical History:
-ESRD on HD (MWF)  
-CAD  
-CHF  
-DM c/b retinopathy and neuropathy  
-Chronic anemia  
-HTN  
-Depression  
-GERD/Esophagitis  
-H/O Osteomyelitis  
-TIA/CVA  
-Nonhealing L heel ulcer  

 
Social History:
___
Family History:
None per patient. No cancers in the family.
 
Physical Exam:
Admission exam:
Vitals- 98.3, 145/53, 97, 20, 97% on RA 
General- Alert, oriented to person and place but not time, no 
acute distress  
HEENT- NCAT. EOMI. L surgical pupil. Sclera icteric. MM dry. OP 
clear.  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-distended, bowel sounds present. TTP in the 
left and right lower quadrants. no rebound tenderness or 
guarding, no organomegaly  
GU- no foley  
Ext- R BKA. warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
Neuro- CNs2-12 intact, ___ strength. full sensation.
Skin - jaundiced. shallow ulceration of the left dorsal foot 
without purulence or surrounding erythema.

Discharge exam:
Vitals not checked as patient is CMO.
General- AAOx1, jaundiced
HEENT- NCAT. EOMI. L surgical pupil. Sclera icteric. MMM. OP 
clear.  
Lungs- Clear to auscultation anterolaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-distended, bowel sounds present. nontender.
Ext- R BKA. warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. L foot ulcer bandaged.
Neuro- CNs2-12 intact, ___ strength. full sensation. Mild 
asterixis 
 
Pertinent Results:
Admission labs:
___ 02:30AM BLOOD WBC-14.0*# RBC-3.58* Hgb-1.03*# Hct-32.0* 
MCV-93# MCH-31.2# MCHC-33.1 RDW-23.0* Plt ___
___ 02:30AM BLOOD Neuts-82.6* Lymphs-9.7* Monos-6.5 Eos-0.7 
Baso-0.4
___ 07:08AM BLOOD ___ PTT-34.0 ___
___ 02:30AM BLOOD Glucose-166* UreaN-53* Creat-6.3*# Na-136 
K-4.8 Cl-94* HCO3-18* AnGap-29*
___ 02:30AM BLOOD ALT-22 AST-60* AlkPhos-235* TotBili-37.2*
___ 02:30AM BLOOD CK-MB-2 cTropnT-0.03*
___ 07:08AM BLOOD CK-MB-2 cTropnT-0.03*
___ 02:30AM BLOOD Albumin-3.2*
___ 07:08AM BLOOD Albumin-3.2* Calcium-9.8 Phos-4.5 Mg-2.1
___ 07:08AM BLOOD Ammonia-75*
___ 02:46AM BLOOD Lactate-1.8

Discharge labs:
None

Micro:
None relevant

Path:
___ Gastrointestinal mucosal biopsies, two:
1. Gastric polyp:
- Fragments consistent with gastric hyperplastic polyp with 
focal erosion.
- Additional levels are examined.
2. "Edematous fold, duodenum":
- Duodenal mucosa with focal chronic mildly active duodenitis.
- No deeper/submucosal tissue present for evaluation. Additional 
levels are examined.

___ Liver, targeted needle core biopsy (___):
- Neuroendocrine carcinoma (grade 3) involving the liver, see 
note.
- Lymphovascular invasion is present
- Adjacent liver parenchyma with marked cholestasis, bile 
ductular proliferation and mixed
inflammatory infiltrate.
Note: The tumor cells are immunoreactive for pan-cytokeratin, 
synaptophysin, CD56 and focally
positive for villin and CDX2. Tumor cells are negative for CK7, 
CK20, PSA and TTF-1. The tumor
shows increased mitotic rate ___ HPF). These results were 
conveyed via telephone to Dr. ___ by Dr. ___ on ___.

Imaging:

From ___
--------------------
___ ERCP 
1. Dilated ducts
2. No evidenceof masses or stricture
Plan: follow LFTs, remove stent in ___ weeks, consider liver bx

___ CT A/P:
1. Persistent multiple hypoenhancing lesions in the R and L 
hepatic lobes. Findings could represent persistent multiple 
metastatic tumors or dysplastic nodules in hepatic cirrhosis.
2. Persistent unchanged marked splenomegaly with multiple 
hypoenhancing lesions. Differential diagnosis can include 
multiple metastatic tumors from unknown primary, infiltration 
with malignant lymphoma or leukemia, or multiple septic emboli.
3. Persistent unchanged s/p CCY, dilated common hepatic duct, 
but interval placement of plastic common bile duct.
4. The current examination with oral constrast shows a possible 
filling defect in upper descending duodenum posterior wall. Even 
though findings could represent redundant mucosa, duodenal tumor 
cannot be excluded. Correlation with endoscopy findings during 
ERCP is recommended.
5. No intestinal or colonic obstruction or abdominal 
inflammation or pneumoperitoneum is seen.
6. Persistent unchanged markedly atrophic kidneys with probably 
multiple renal cortical cysts.
7. No pelvic mass, lesions, abscess, or LAD is seen.

___ CT CHEST
1. Fan shaped right middle lobe atelectasis and tiny focal 
anterior medial left lingular lobe atelectasis are seen.
2. No focal lung mass lesion or mediastinal LAD is seen.
3. No thoracic aortic aneurysm or dissection is seen.

From ___:
-------------
none relevant
 
Brief Hospital Course:
___ with DM, ESRD on HD, CAD, CHF, who presented to ___ 
___ with 4 months of worsening abdominal pain, weight loss, 
and jaundice, and found to have multiple hepatic lesions on CT 
A/P concerning for malignancy. He underwent ERCP at ___ in 
___ with stent placement. Bilirubin continued to rise post 
procedurally. Repeat CT A/P was then done, which confirmed 
proper stent placement and noted continued presence of 
multifocal lesions in the liver, as well as duodenal wall 
thickening. On ___ pt underwent ___ guided liver biopsy. He was 
transferred to ___ for duodenal wall biopsy and to workup for 
a primary malignancy. Of note, GI was consulted at ___, who 
delayed inpatient colonoscopy pending the above biopsy results. 

At ___, pt underwent Endoscopy with US and biopsy of the 
duodenum showing duodenitis. Liver biopsy from ___ came 
back on ___, showing neuroendocrine carcinoma. Pt was 
presented at Tumor Board Conference on ___. Hepatology, 
Oncology, pathology, and radiology all agreed that the patient 
was a poor candidate for further intervention given his multiple 
comorbidities, the aggressive nature of the carcinoma, and the 
stage. Multiple discussion with the patient and his sons 
revealed that the patient values his independence and 
cognitition and would not want to prolong a life of 
hospitalization and illness. Palliative care was consulted, and 
the patient was transitioned to ___ focused care.

Of note, many preadmission medications were stopped. Celexa was 
continued for depression and omperazole for any pain related to 
gastritis/duodenitis. Rifaximin and lactulose were started to 
improve hepatic encephalopathy, which was within pt's goals of 
care. He received oral dilaudid for abdominal pain throughout 
the hospitalization with good effect, and on the day of 
discharge was transitioned to oxycodone elixir for ease of 
administration. He appeared comfortable on day of discharge.

# CODE STATUS: DNR/DNI
# CONTACT: ___ (son) ___ cell (preferred): 
___   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO DAILY:PRN anxiety 
4. Cinacalcet 30 mg PO BID 
5. Citalopram 30 mg PO DAILY 
6. sevelamer CARBONATE 800 mg PO TID W/MEALS 
7. Amitriptyline 50 mg PO HS 
8. CloniDINE 0.3 mg PO BID 
9. Glargine 42 Units Breakfast
Insulin SC Sliding Scale using UNK Insulin
10. Oxycodone-Acetaminophen (5mg-325mg) 2 TAB PO ONCE:PRN 
dialysis 

 
Discharge Medications:
1. Citalopram 30 mg PO DAILY 
2. Acetaminophen 650 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*3
3. Lactulose 30 mL PO QID 
RX *lactulose 10 gram/15 mL 30 ML by mouth four times a day 
Refills:*1
4. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % (700 mg/patch) Apply 1 Patch Daily Disp #*90 
Patch Refills:*1
5. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg ___ tablet(s) by mouth Daily Disp #*90 
Tablet Refills:*1
6. Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
7. Omeprazole 40 mg PO BID 
8. Lorazepam 0.5-1 mg PO Q2H:PRN anxiety or dyspnea 
RX *lorazepam 0.5 mg ___ tabs by mouth every two hours Disp #*40 
Tablet Refills:*0
9. OxycoDONE Liquid ___ mg PO Q1H:PRN pain or dyspnea 
RX *oxycodone 5 mg/5 mL ___ mg by mouth every hour Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Neuroendocrine carcinoma
Jaundice
Hyperbilirubinemia
Hepatic encephalopathy
End stage renal disease
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted for 
further evaluation of lesions on your liver found on a CT scan. 
The liver biopsy done at ___ came back on ___ 
and showed evidence of cancer.  After extensive discussions with 
the oncology and liver service as well as with you and your 
family about your preferences, it was decided to discharge you 
to an ___ facility for comfort focused care.  We wish you 
the best and if we can do anything at all to make you more 
comfortable please let us know.

We wish you the best,

Your ___ Care Team

 
Followup Instructions:
___